US05064839
B. 2-[2-(4,4-Diphenylpiperid-1-yl)-ethoxy]-ethyl acetoacetate
20 ml of a 50% strength solution of diketene in acetone are added dropwise to 32.5 g of N-[2-(2-hydroxyethoxy)-ethyl]-4,4-diphenylpiperidine and about 0.1 g of N,N-dimethylaminopyridine in 200 ml of methylene chloride at the boiling point, with vigorous stirring. After boiling under reflux for 1 h, the solution is allowed to cool and is concentrated to constant weight under a high vacuum. The pale yellow viscous coil which remains is used for the next stage without further purification.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | N-[2-(2-hydroxyethoxy)-ethyl]-4,4-diphenylpiperidine | 32.5 g | OCCOCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H27NO2
solvent | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4,4-Diphenylpiperid-1-yl)-ethoxy]-ethyl acetoacetate | C(CC(=O)C)(=O)OCCOCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO4
